US07888364B2
Procedure G was used to couple 4-chloro-3-(pyridin-2-yl)aniline and 2-chloro-5-(methanesulfonyl)benzoic acid to produce 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-5-(methylsulfonyl)benzamide. MS (Q1) 420.95 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 2-chloro-5-(methanesulfonyl)benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7ClO4S
product | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-5-(methylsulfonyl)benzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C(C=C1)S(=O)(=O)C | C19H14Cl2N2O3S
